US07807709B2
B. (3S,4R)-3-Hydroxymethyl-4-({isopropyl-[1-(3-methoxy-propyl)-1H-indole-6-carbonyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
From (3S,4R)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-({isopropyl-[1-(3-methoxy-propyl)-1H-indole-6-carbonyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (6.79 g, 11.3 mmol) and TBAF (5.35 g, 17.0 mmol) and purification by flash chromatography on silivca gel (chexane/AcOEt 50:50 to 0:100 to AcOEt/MeOH 90:10). TLC, Rf (AcOEt)=0.34. MS (LC-MS): 432 [M+H-tBu]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/15 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 5.73 min.

reactant | (3S,4R)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-({isopropyl-[1-(3-methoxy-propyl)-1H-indole-6-carbonyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 11.3 mmol, 6.79 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(=O)C1=CC=C2C=CN(C2=C1)CCCOC)C(C)C)C(O[SiH2]C(C)(C)C)(C)C | C33H55N3O5Si
reactant | TBAF | 17.0 mmol, 5.35 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | H-tBu | C(C)(C)C | C4H10
reactant | CH3CN H2O | CC#N.O
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | AcOEt MeOH | CCOC(=O)C.CO
solvent | H2O | O | H2O
solvent | CH3CN | CC#N | C2H3N
product | (3S,4R)-3-Hydroxymethyl-4-({isopropyl-[1-(3-methoxy-propyl)-1H-indole-6-carbonyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(=O)C1=CC=C2C=CN(C2=C1)CCCOC)C(C)C)CO | C27H41N3O5
